US07834051B2
To a solution of ethyl(4S)-4-{[(benzyloxy)carbonyl]amino}-3-oxohexanoate (70.68 g) in methanol (500 mL) was added sodium borohydride (9.66 g) at −78° C., and the mixture was stirred at −78° C. for 1 hr and at room temperature for 1 hr. Saturated aqueous ammonium chloride was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate) to give ethyl(4S)-4-{[(benzyloxy)carbonyl]amino}-3-hydroxyhexanoate (yield: 63.2 g, 89%) as a colorless solid.

reactant | ethyl(4S)-4-{[(benzyloxy)carbonyl]amino}-3-oxohexanoate | 70.68 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(CC(=O)OCC)=O)CC | C16H21NO5
reactant | sodium borohydride | 9.66 g | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 500 mL | CO | CH4O
product | ethyl(4S)-4-{[(benzyloxy)carbonyl]amino}-3-hydroxyhexanoate | yield: 63.2 g, 89% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(CC(=O)OCC)O)CC | C16H23NO5
